US05332734
4.2 ml of 1N sodium hydroxide was added dropwise under ice-cooling to a solution of 900 mg of methyl N-(9-fluorenylcarbonyl)glycinate in 55 ml of ethanol. The resultant mixture was stirred at room temperature for 1.5 hours. The residue obtained by concentrating the reaction mixture was dissolved in 0.5N sodium hydroxide, and washed with an ether. Under ice-cooling, the pH value of the aqueous layer was adjusted to 3 to 4 with 5% hydrochloric acid, and the precipitate formed was separated by filtration. The precipitate thus separated was washed with water and, then, recrystallized from a mixture of ethanol and ether to give 463 mg of N-(9-fluorenylcarbonyl)glycine as white needles.

reactant | sodium hydroxide | 1N, 4.2 ml | [OH-].[Na+]
reactant | methyl N-(9-fluorenylcarbonyl)glycinate | 900 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)NCC(=O)OC | C17H15NO3
solvent | ethanol | 55 ml | C(C)O | C2H6O
product | N-(9-fluorenylcarbonyl)glycine | 463 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)NCC(=O)O | C16H13NO3
